US07666864B2
Step 1: 1-(5-Bromo-pyridin-2-yl)-[1,4]diazepane.
A solution of 5-Bromo-2-fluoro-pyridine (2.0 g, 11.4 mmol), [1,4]Diazepane (2.2 g, 22.8 mmol) in CH3CN (5.0 mL) was stirred at 50° C. for 3 hrs. Filter of the solid and the mother solution was brine, and concentrated in vacuo to give the title product (1.47 g, 51%) as a brown solid. ESI MS m/z 256 (M+H+); 1H NMR (400 MHz, CDCl3) δ 8.12 (d, J=7.0 Hz, 1H), 7.45 (dd, J=22.0, 6 Hz, 1H), 6.38 (d, J=22.0 Hz, 1H), 3.66 (m, 4H), 2.81 (t, J=15.0 Hz, 2H), 1.86 (m, 2H).

reactant | 5-Bromo-2-fluoro-pyridine | 11.4 mmol, 2.0 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | [1,4]Diazepane | 22.8 mmol, 2.2 g | N1CCNCCC1 | C5H12N2
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | 1-(5-Bromo-pyridin-2-yl)-[1,4]diazepane | 1.47 g, 51% | BrC=1C=CC(=NC1)N1CCNCCC1 | C10H14BrN3
